US05149357
A stirred suspension of 10.0 grams (0.048 mole) of 6-chloroanthranilic acid hydrochloride and 100 mL of concentrated hydrochloric acid in 200 mL of water was cooled to 5° C., and a solution of 3.5 grams (0.050 mole) of sodium nitrite in 50 mL of water was added dropwise during a 10 minute period. Upon completion of addition, the reaction mixture was warmed to 90° C. where it was stirred for about 10 minutes. The reaction mixture was cooled to ambient temperature and was filtered. The filter cake was washed with cold heptane and dried to yield 3.7 grams of 6-chlorosalicylic acid. The nmr spectrum was consistent with the proposed structure.

reactant | 6-chloroanthranilic acid hydrochloride | 0.048 mole, 10.0 grams | Cl.ClC=1C=CC=C(C1C(=O)O)N
reactant | hydrochloric acid | 100 mL | Cl | ClH
reactant | sodium nitrite | 0.050 mole, 3.5 grams | N(=O)[O-].[Na+]
solvent | water | 200 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 6-chlorosalicylic acid | 3.7 grams | ClC=1C=CC=C(C1C(=O)O)O | C7H5ClO3
